US06399641B1
N-(2-Methyl-2H-tetrazol-5-yl)-2,2-diphenyl-acetamide
To a stirred solution of 5-amino-2-methyl-2H-tetrazole (0.50 g, 5.05 mmol), pyridine (0.48 g, 6.06 mmol) and DMAP (0.06 g, 0.51 mmol) in dichloromethane (30 ml) was added at 0° C. diphenylacetyl chloride (1.16 g, 5.05 mmol). Stirring was continued at RT for 2 h, the reaction mixture was poured into sat. NaHCO3 solution (50 ml) and extracted with dichloromethane (3×50 ml). The combined organic layers were washed with brine (70 ml), dried (Na2SO4) and evaporated. The crude product was crystallized from ethyl acetate/hexane to give the title compound (0.83 g, 56%) as a white solid, m.p. 218° C. (dec.) and MS: m/e=293.1 (M+H+).

reactant | 5-amino-2-methyl-2H-tetrazole | 5.05 mmol, 0.50 g | NC=1N=NN(N1)C | C2H5N5
reactant | pyridine | 6.06 mmol, 0.48 g | N1=CC=CC=C1 | C5H5N
reactant | diphenylacetyl chloride | 5.05 mmol, 1.16 g | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
catalyst | DMAP | 0.51 mmol, 0.06 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | N-(2-Methyl-2H-tetrazol-5-yl)-2,2-diphenyl-acetamide | 0.83 g, 56% | CN1N=C(N=N1)NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C16H15N5O
